US04294960
To a suspension of ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 15 g.) and potassium carbonate (19.8 g.) in acetone (75 ml.) was added dropwise propyliodide (16.2 g.) with stirring, and the mixture was stirred at ambient temperature for 1,5 hours. The insoluble substance was collected by filtration and washed with acetone. The washings and the filtrate were combined and evaporated to dryness under reduced pressure. To the resultant residue was added water and the aqueous solution was extracted twice with chloroform. The extract was washed with an aqueous solution of sodium chloride, dried over magnesium sulfate, and then evaporated to dryness under reduced pressure to give ethyl 3-oxo-2-propoxyiminobutyrate (syn isomer, 15.4 g.), oil.

reactant | ethyl 2-hydroxyimino-3-oxobutyrate | 15 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | potassium carbonate | 19.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | propyliodide | 16.2 g | C(CC)I | C3H7I
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | ethyl 3-oxo-2-propoxyiminobutyrate | 15.4 g | O=C(C(C(=O)OCC)=NOCCC)C | C9H15NO4
